US07402595B2
6-bromo-2-[4-(2-methoxyethoxymethoxy)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
The present compound was synthesized by a method similar to that in Example 260 and using 6-bromo-2-(4-hydroxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (200 mg) and methoxyethoxymethylchloride. Colorless crystals (28 mg).

reactant | 6-bromo-2-(4-hydroxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 200 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)O | C24H18BrNO4
reactant | methoxyethoxymethylchloride | COCCOCCl | C4H9ClO2
product | 6-bromo-2-[4-(2-methoxyethoxymethoxy)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)OCOCCOC | C28H26BrNO6
